US07067529B2
6,7-Dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (2-cyanoethyl)-amide
A solution of 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (170 mg, 0.46 mmol) in dry, N,N-dimethylformamide (5 mL) was chilled in an ice bath under argon. With stirring, triethylamine (97 uL, 0.69 mmol) and isobutylchloroformate (72 uL, 0.56 uL) were added. The solution was stirred for 30 min and then 3-aminopropionitrile fumarate (118 mg, 0.92 mmol) and triethylamine (250 uL, 1.79 mmol) were added. The solution was allowed to warmed to room temperature with stirring overnight. The reaction mixture was poured into a 2% aqueous sodium bicarbonate solution (50 mL) and extracted with ethyl acetate (3×25 mL). The combined ethyl acetate layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 107 mg (55%) of an off white solid and used without further purification: APCI-MS m/e calcd for C23H21N3O5(M−H+) 420.4, found 420.0; 1H NMR (300 MHz) compatible.

reactant | 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid | 0.46 mmol, 170 mg | COC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C(=O)O | C20H17NO6
reactant | triethylamine | 0.69 mmol, 97 uL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 72 uL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-aminopropionitrile fumarate | 0.92 mmol, 118 mg | C(\C=C\C(=O)O)(=O)O.NCCC#N
reactant | triethylamine | 1.79 mmol, 250 uL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6,7-Dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (2-cyanoethyl)-amide | C(#N)CCNC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OC)=O | C23H21N3O5
